US04602020
1,3-dihydro-3-cyclohexyl-3-phenyl-6-pyrrolidinomethyl-7-hydroxy-furo-(3,4-c)-pyridine
The method of example 3 was repeated, but starting with 1,3-dihydro-3-cyclohexyl-3-phenyl-6-chloromethyl-7-benzoxy-furo-(3,4-c)-pyridine and with pyrrolidine instead of dimethylamine. Yield 67% of a yellow crystalline product melting at 204° C. (Tottoli), elemental analysis of which showed a good correspondence with the formula C24H30N2O4.

reactant | 1,3-dihydro-3-cyclohexyl-3-phenyl-6-chloromethyl-7-benzoxy-furo-(3,4-c)-pyridine | C1(CCCCC1)C1(OCC2=C1C=NC(=C2OCC2=CC=CC=C2)CCl)C2=CC=CC=C2 | C27H28ClNO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1,3-dihydro-3-cyclohexyl-3-phenyl-6-pyrrolidinomethyl-7-hydroxy-furo-(3,4-c)-pyridine | Yield 67% | C1(CCCCC1)C1(OCC2=C1C=NC(=C2O)CN2CCCC2)C2=CC=CC=C2 | C24H30N2O2
